US06566535B1
Ethyl 7-(4-propoxyethoxyphenyl)-2,3-dihydro-1-benzothiepine-4-carboxylate (45 g, 109.1 mmol) was suspended in 405 ml of acetic acid and was heated to 60° C. to dissolve. A solution of 30% hydrogen peroxide (25.35 g, 223.6 mmol) in 45 ml of acetic acid was dropped slowly at 60-70° C. After the dropping, the mixture was stirred at 65-70° C. for 3 hours. At that temperature, 40 ml of an aqueous sodium sulfite solution was dropped and disappearance of the peroxide was checked with iodo-starch paper. After dropping 275 ml of water at that temperature, the mixture was cooled and stirred for 2 hours and then was stirred at 0-10° C. for 30 minutes. After filtration, the residue was washed with an ice-cooled, mixed solution of acetic acid/water (45 ml/31.5 ml) and subsequently with 225 ml of water. After vacuum drying (40° C.), 45.9 g (Yield 94.6%) of ethyl 7-(4-propoxyethoxyphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate was obtained as white crystals.

reactant | Ethyl 7-(4-propoxyethoxyphenyl)-2,3-dihydro-1-benzothiepine-4-carboxylate | 109.1 mmol, 45 g | C(CC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2)C(=O)OCC)C1 | C24H28O4S
reactant | hydrogen peroxide | 223.6 mmol, 25.35 g | OO | H2O2
reactant | sodium sulfite | 40 ml | S(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 275 ml | O | H2O
solvent | acetic acid | 405 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 45 ml | C(C)(=O)O | C2H4O2
product | ethyl 7-(4-propoxyethoxyphenyl)-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylate | 45.9 g, Yield 94.6% | C(CC)OCCOC1=CC=C(C=C1)C=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)OCC)C1 | C24H28O6S
